US05962457
A mixture of methyl 3-aminothiophene-4-carboxylate hydrochloride (3.1 g, 16 mmol) and triethylamine (6.7 mL, 48 mmol), in methylene chloride (75 mL) was stirred 30 minutes and then chilled over wet ice. Acetyl chloride (1.4 mL, 19.2 mmol) was added and the reaction was warmed to ambient temperature and stirred 1 hour. The reaction was quenched with water and diluted with methylene chloride. The phases were separated and the aqueous layer was extracted with methylene chloride. The combined organic layer was washed with water, dried over magnesium sulfate, and concentrated to afford 2.85 g (91%) of methyl 3-acetamidothiophene-4-carboxylate as a brown oil which solidified on standing. The product was suitable for use without purification.

reactant | methyl 3-aminothiophene-4-carboxylate hydrochloride | 16 mmol, 3.1 g | Cl.NC1=CSC=C1C(=O)OC
reactant | triethylamine | 48 mmol, 6.7 mL | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 19.2 mmol, 1.4 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-acetamidothiophene-4-carboxylate | 2.85 g, 91% | C(C)(=O)NC1=CSC=C1C(=O)OC | C8H9NO3S
